US08476300B2
1-[2-[4-[[6-methoxy-2-(5-methylsulfonyl-3-thienyl)-1-naphthyl]oxy]phenoxy]ethyl]piperidine
Combine palladium(II)acetate (0.043 g 0.19 mmol) and trycyclohexylphosphine (0.081 g, 0.29 mmol) in acetonitrile (15 mL) and sonicate for 10 minutes. Add [6-methoxy-1-[4-[2-(1-piperidyl)ethoxy]phenoxy]-2-naphthyl]trifluoromethanesulfonate (0.5 g, 0.95 mmol), trimethyl-(5-methylsulfonyl-3-thienyl)stannane (0.94 g, 2.9 mmol) and palladium mixture to a suspension of cesium fluoride (0.5 g, 3.3 mmol) in acetonitrile (40 mL). Warm the resulting mixture to 90° C. and stir for 18 hours. Cool the mixture to room temperature and concentrate. Partition the resulting residue between ethylacetate and saturated aqueous sodium bicarbonate. Separate the layers and wash the organic layer with saturated aqueous ammonium chloride and brine, then dry with sodium sulfate. Concentrate the resulting solution and purify by flash chromatography (0-5% methanol in dichloromethane) to obtain the title compound (0.3 g, 0.55 mmol).

reactant | [6-methoxy-1-[4-[2-(1-piperidyl)ethoxy]phenoxy]-2-naphthyl]trifluoromethanesulfonate | 0.95 mmol, 0.5 g | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C25H26F3NO6S
reactant | trimethyl-(5-methylsulfonyl-3-thienyl)stannane | 2.9 mmol, 0.94 g | C[Sn](C1=CSC(=C1)S(=O)(=O)C)(C)C
reactant | cesium fluoride | 3.3 mmol, 0.5 g | [F-].[Cs+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
catalyst | palladium(II)acetate | 0.19 mmol, 0.043 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium | [Pd] | Pd
product | 1-[2-[4-[[6-methoxy-2-(5-methylsulfonyl-3-thienyl)-1-naphthyl]oxy]phenoxy]ethyl]piperidine | 0.55 mmol, 0.3 g | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCC2)C=C1)C1=CSC(=C1)S(=O)(=O)C | C29H31NO5S2
